US08067415B2
To a solution of N-{2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide (500 mg, 1.59 mmol; prepared according to WO2004/050024A2) in methanol (5 mL) at room temperature was added benzyl 3-oxopyrrolidine-1-carboxylate (434 mg, 1.98 mmol) followed by sodium triacetoxyborohydride (470 mg, 2.22 mmol); the reaction mixture was stirred for 16 hours. To the mixture was added NaHCO3 (sat. aq., 10 mL) and dichloromethane (10 mL). The organic layer was separated and the aqueous layer was washed with an addition portion of dichloromethane (10 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The resulting crude product was subjected to flash chromatography (15% MeOH, 1% NH4OH in EtOAc) to afford, as a mixture of diastereomers, benzyl (3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidine-1′-carboxylate (906 mg, 88%) as a white solid. 1H-NMR (CDCl3) δ: 1.30-1.44 (m, 2H), 1.50-1.68 (m, 2H), 1.80-2.00 (m, 2H), 2.10-3.29 (m, 1H), 2.30-2.43 (m, 1H), 2.55-23.05 (m, 3H), 3.15-3.28 (m, 1H), 3.58-4.20 (m, 3H), 4.30-4.50 (m, 1H), 5.09 (s, 2H), 6.70-6.87 (m, 1H), 7.20-7.50 (m, 6H), 7.52 (t, J=8.7 Hz, 1H), 7.72 (d, J=7.2 Hz, 1H), 7.99 (d, J=7.2 Hz, 1H), 8.09 (s, 1H). MS m/z: 519 (M+1)

reactant | N-{2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide | 1.59 mmol, 500 mg | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)N[C@H]1CNCC1 | C14H16F3N3O2
reactant | benzyl 3-oxopyrrolidine-1-carboxylate | 1.98 mmol, 434 mg | O=C1CN(CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
reactant | sodium triacetoxyborohydride | 2.22 mmol, 470 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | benzyl (3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidine-1′-carboxylate | 906 mg, 88% | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CN(CC2)C2CN(CC2)C(=O)OCC2=CC=CC=C2)C=CC1)(F)F | C26H29F3N4O4
